US05169885
Methyl 3-(3-tert-butyl-5-methyl-4-hydroxyphenyl)propionate (70.0 g), octadecyl alcohol (76.3 g) and dibutyltin oxide (0.74 g) were dissolved in toluene (70 ml), after which the mixture was heated, and the solvent (200 ml) was distilled off while adding toluene. The toluene was distilled off from the reaction mixture and the residue was purified by column chromatography to give octadecyl 3-(3-tert-butyl-5-methyl-4-hydroxyphenyl)propionate (136.0 g), m.p. 58°-59° C.

reactant | Methyl 3-(3-tert-butyl-5-methyl-4-hydroxyphenyl)propionate | 70.0 g | C(C)(C)(C)C=1C=C(C=C(C1O)C)CCC(=O)OC | C15H22O3
reactant | octadecyl alcohol | 76.3 g | C(CCCCCCCCCCCCCCCCC)O | C18H38O
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
catalyst | dibutyltin oxide | 0.74 g | C(CCC)[Sn](CCCC)=O
product | octadecyl 3-(3-tert-butyl-5-methyl-4-hydroxyphenyl)propionate | 136.0 g | C(C)(C)(C)C=1C=C(C=C(C1O)C)CCC(=O)OCCCCCCCCCCCCCCCCCC | C32H56O3
